US07022702B2
5-Benzylamino-[1,2,3]thiadiazole-4-carboxylic acid amide;
5-Benzoylamino-[1,2,3]thiadiazole-4-carboxylic acid amide; 5-Ethylamino-[1,2,3]thiadiazole-4-carboxylic acid amide; 5-Hexylamino-[1,2,3]thiadiazole-4-carboxylic acid amide;

reactant | 5-Benzoylamino-[1,2,3]thiadiazole-4-carboxylic acid amide | C(C1=CC=CC=C1)(=O)NC1=C(N=NS1)C(=O)N | C10H8N4O2S
reactant | 5-Ethylamino-[1,2,3]thiadiazole-4-carboxylic acid amide | C(C)NC1=C(N=NS1)C(=O)N | C5H8N4OS
reactant | 5-Hexylamino-[1,2,3]thiadiazole-4-carboxylic acid amide | C(CCCCC)NC1=C(N=NS1)C(=O)N | C9H16N4OS
product | 5-Benzylamino-[1,2,3]thiadiazole-4-carboxylic acid amide | C(C1=CC=CC=C1)NC1=C(N=NS1)C(=O)N | C10H10N4OS
